US08431563B2
A 500 mL round-bottomed flask was charged with 1,4-dibromobenzene (30.27 g, 128 mmol, Sigma-Aldrich, St. Louis, Mo.) and 200 mL of ether. After cooling to −78° C., n-BuLi (59.0 mL, 2.5 M in hexanes, 148 mmol) was added. This mixture was stirred for 15 min at −78° C., then 1,1,1-trifluoro-2-propanone (24.2 mL, 257 mmol, Sigma-Aldrich, St. Louis, Mo.) was added. Stirring was continued at −78° C. for 30 min then the mixture was quenched with 100 mL of saturated aqueous NH4Cl. The mixture was extracted with EtOAc (250 mL), dried (MgSO4) and concentrated to give an oil. Purification via column chromatography (330 g of silica, 0 to 30% EtOAc in hexanes) gave 2-(4-bromophenyl)-1,1,1-trifluoro-2-propanol (21.50 g) as a colorless oil.

reactant | 1,4-dibromobenzene | 128 mmol, 30.27 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | n-BuLi | 148 mmol, 2.5 M, 59.0 mL | [Li]CCCC
reactant | 1,1,1-trifluoro-2-propanone | 257 mmol, 24.2 mL | FC(C(C)=O)(F)F | C3H3F3O
solvent | ether | 200 mL | CCOCC | C4H10O
product | 2-(4-bromophenyl)-1,1,1-trifluoro-2-propanol | 21.50 g | BrC1=CC=C(C=C1)C(C(F)(F)F)(C)O | C9H8BrF3O
